Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
betadine  / Codeine / Ativan / gabapentin / Butrans
 
Attending: ___.
 
Chief Complaint:
chronic draining wound
 
Major Surgical or Invasive Procedure:
irrigation and debridement of left knee prosthesis x 2, lateral 
gastrocnemius flap

 
History of Present Illness:
chondrosarcoma in her proximal tibia.  She
recently had a sinus tract develop, and unfortunately this
was a result of a deep infection of her tumor prosthesis.
The cultures are growing out Pseudomonas and so we
recommended another irrigation debridement.  At this point,
we did consider removal of all of the implants and placement
of a spacer, but the patient is really loathe to have to go
through that, and I think it is reasonable to try retention
of implants and the IV antibiotics at this point.  We talked
about risks, benefits, and alternatives of the surgical
procedure and she wishes to proceed.

 
Past Medical History:
Depression, anxiety, reactive airway disease. 
s/p three C-sections, ___, ___ 
s/p breast augmentation  
s/p proximal tibia reconstruction
 
Social History:
___
Family History:
Non contributory 
 
Physical Exam:
Gen: NAD AAO
LLE: SILT SPN/DPN/TN
___ pulses
MOtor + ___
thigh soft, calf soft
dressing c/d/i
knee immobilzer in place
 
Pertinent Results:
___ 10:58AM BLOOD WBC-8.8 RBC-2.90* Hgb-8.1* Hct-25.0* 
MCV-86 MCH-27.8 MCHC-32.2 RDW-15.1 Plt ___
___ 10:58AM BLOOD Neuts-68.2 ___ Monos-5.3 Eos-4.0 
Baso-0.4
___ 10:58AM BLOOD Plt ___
___ 11:00AM BLOOD UreaN-6 Creat-0.5 Na-144 K-4.5 Cl-110*
___ 10:58AM BLOOD CRP-18.9*
___ 11:00AM BLOOD CRP-14.0*
___ 08:50AM BLOOD CRP-46.6*
___ 05:00PM BLOOD CRP-116.3*
___ 05:00PM BLOOD SED RATE-Test 

     ___ 2:20 pm TISSUE     Site: LEG      LEFT LEG DEEP 
TISSUE. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Final ___: 
      Reported to and read back by ___ ___ 3:40PM 
___. 
      DORIPENEM AND COLISTIN PER ___ ___ ___. 
      PSEUDOMONAS AERUGINOSA.    RARE GROWTH. 
         SENSITIVE TO DORIPENEM MIC =0.5MCG/ML Sensitivity 
testing
         performed by Etest. 
         SENSITIVE TO COLISTIN sensitivity testing performed by 
___
         ___. 
         CEFTOLOZANE/TAZOBACTAM =0.5/4 MCG/ML SUSCEPTIBLE, 
PERFORMED BY
         CUBIST PHARMACEUTICALS REFERENCE LAB. 
      PSEUDOMONAS AERUGINOSA.    RARE GROWTH.  SECOND STRAIN. 
         SENSITIVE TO DORIPENEM.MIC=0.75 MCG/ML Sensitivity 
testing
         performed by Etest. 
         SENSITIVE TO COLISTIN sensitivity testing performed by 
___
         ___. 
         CEFTOLOZANE/TAZOBACTAM =0.5/4 MCG/ML SUSCEPTABLE, 
PERFORMED BY
         ___ REFERENCE LAB. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |          PSEUDOMONAS AERUGINOSA
                             |          |   
CEFEPIME--------------   <=1 S      <=1 S
CEFTAZIDIME-----------   <=1 S        2 S
CIPROFLOXACIN---------<=0.25 S   <=0.25 S
GENTAMICIN------------   <=1 S      <=1 S
MEROPENEM-------------<=0.25 S   <=0.25 S
PIPERACILLIN/TAZO-----     8 S        8 S
TOBRAMYCIN------------   <=1 S      <=1 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED.

___ 12:58 pm SWAB      LEFT LEG WOUND. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Final ___: 
      PSEUDOMONAS AERUGINOSA. 
         SPARSE GROWTH OF TWO COLONIAL MORPHOLOGIES. 
         SENSITIVITIES PERFORMED ON CULTURE # ___ ___. 
      KLEBSIELLA OXYTOCA.    1 COLONY ON 1 PLATE. 
         CANNOT RULE OUT CONTAMINATION. 
         CEFTOLOZANE/TAZOBACTAM ___ SUSCEPTIBLE, PERFORMED 
BY CUBIST
         PHARMACEUTICALS REFERENCE LAB. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA OXYTOCA
                             |   
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------    16 R
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------     4 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----     2 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


 
 
 

 
Brief Hospital Course:
___ yo F who was admitted ___ following an I+D of the left 
knee with sinus tract excision. She was admitted for IV 
antibioitics and pain control. Acute pain services was consulted 
and managed her pain with a sciatic nerve catheter. Infectious 
disease was consulted and recommended ___ weeks of IV therapy 
with 2g cefepime q8h. She went back to the operating room on 
___ for a repeat procedure. Plastics was consulted and was 
available intraoperatively to examine the wound. In between 
surgeries a wound vac was placed secondary to being unable to 
cover the skin in the area of the sinus tract which was 
previously present. Plastic surgery performed a lateral 
gastrocnemius flap on ___. Her hospital course was 
significant for difficulties with pain control for which IV 
medications were required. She remained stable and was medically 
clear for discharge. hopsitalization was prolonged secondary to 
difficulties with insurance and setting up home services for her 
IV therapy. She had a plan in place on ___ and was 
discharged home.
 
Medications on Admission:
Morphine ER 20mg BID
Errin
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H 
2. Ascorbic Acid ___ mg PO DAILY 
3. CefePIME 2 g IV Q8H 
RX *cefepime [Maxipime] 2 gram 2 g IV every eight (8) hours Disp 
#*48 Vial Refills:*3
4. Diazepam ___ mg PO Q6H:PRN spasm, pain 
RX *diazepam 5 mg 1 tablet by mouth every six (6) hours Disp 
#*70 Tablet Refills:*0
5. Enoxaparin Sodium 40 mg SC QAM 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
RX *enoxaparin 40 mg/0.4 mL 1 syringe sc daily Disp #*14 Syringe 
Refills:*0
6. Errin (norethindrone (contraceptive)) 0.35 mg oral Qhs 
7. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN Pain 
RX *hydromorphone 4 mg ___ tablet(s) by mouth q3h Disp #*100 
Tablet Refills:*0
8. Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush 
RX *sodium chloride 0.9 % [Normal Saline Flush] 0.9 % ___ ml 
IV daily Disp #*30 Syringe Refills:*2
9. Pregabalin 100 mg PO BID 
RX *pregabalin [Lyrica] 100 mg 1 capsule(s) by mouth twice a day 
Disp #*28 Capsule Refills:*0
10. OxyCODONE SR (OxyconTIN) 20 mg PO Q12H 
RX *oxyCODONE  1 tablet by mouth twice a day Disp #*28 Tablet 
Refills:*0
11. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0

 
Discharge Disposition:
Home with Service
 
Discharge Diagnosis:
chronic infection, left knee prosthesis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Activity: weight bearing as tolerated LLE. it may be more 
comfortable to use curtches or a walker until you can use your 
cane. Use your knee immobilizer when up moving around. okay to 
take immobilizer off while in bed.

Dressing: change daily as needed for drainage. okay to leave 
open to air.

Shower: okay to shower, let water run over the incision, do not 
scrub the incision. pat incision dry and reapply dry dressing.

Diet: regular diet
Physical Therapy:
Weight bearing as tolerated. no range of motion of knee. knee 
immobilzier while ambulating. 
Treatments Frequency:
change dressing daily or as needed for drainage
cefepime 2g q8h
 
Followup Instructions:
___